US07915267B2
4-{[3-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]oxy}butanoic acid
A mixture of ethyl 4-{[3-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]oxy}butanoate obtained in Reference Example 43 (525 mg, 1.28 mmol), 4N aqueous sodium hydroxide solution (1.6 mL), THF (10 mL), methanol (10 mL) and water (10 mL) was stirred at 100° C. for 2 hr. The mixture was allowed to cool to room temperature, and the solvent was evaporated under reduced pressure. Water and 1N hydrochloric acid (6.41 mL) were added to the residue, and the resulting precipitate was collected by filtration, washed with water, and dried. The obtained crude crystals were recrystallized from ethanol to give the title compound as a white powder (339 mg, 69%).

reactant | ethyl 4-{[3-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]oxy}butanoate | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC=1C=C(C=CC1)OCCCC(=O)OCC | C22H23N3O5
reactant | sodium hydroxide | 4N, 1.6 mL | [OH-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-{[3-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]oxy}butanoic acid | 339 mg, 69% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC=1C=C(C=CC1)OCCCC(=O)O | C20H19N3O5
